US07439005B2
In 170 mL of toluene were dissolved 17.38 g of 4-vinylbenzaldehyde and 10.89 g of ethylene glycol. To the solution were added 0.25 g of p-toluenesulfonic acid monohydrate and 0.22 g of p-hydroquinene, and the mixture was heated at reflux. Water generated during the reaction was removed by a Dean-Stark trap. After 8 hours, it was allowed to be cooled and evaporated under a reduced pressure. The residue was distilled under vacuum (92 to 93° C./0.45 mmHg), to give 13.44 g of 4-(2,5-dioxocyclopentyl)styrene (yield: 58%).

reactant | 4-vinylbenzaldehyde | 17.38 g | C(=C)C1=CC=C(C=O)C=C1 | C9H8O
reactant | ethylene glycol | 10.89 g | C(CO)O | C2H6O2
reactant | Water | O | H2O
reactant | toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.25 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-(2,5-dioxocyclopentyl)styrene | 13.44 g, yield: 58% | O=C1C(C(CC1)=O)C1=CC=C(C=C)C=C1 | C13H12O2
